US08278318B2
Step 2: N,N-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-2-carboxamide
A mixture of 5-bromo-N,N-dimethylpyridine-2-carboxamide (5.73 g, 0.0250 mol), 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] (6.98 g, 0.0275 mol) (Aldrich, cat #: 473294), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complexed with dichloromethane (1:1) (0.6 g, 0.0007 mol) (Aldrich, cat #: 379670), 1,1′-bis(diphenylphosphino)ferrocene (0.4 g, 0.8 mmol) (Aldrich, cat #: 177261), and potassium acetate (7.36 g, 0.0750 mol) in 1,4-dioxane (100 mL) was heated at 120° C. for 20 h. After cooling, the mixture was concentrated, diluted with ethyl acetate and washed with sat'd NH4Cl solution, water, brine; dried over Na2SO4. After filtration, the filtrate was concentrated and the crude material was further purified on a silica gel column eluting with ethyl acetate/hexane to give the desired product (4.7 g, 68%).

reactant | 5-bromo-N,N-dimethylpyridine-2-carboxamide | 0.0250 mol, 5.73 g | BrC=1C=CC(=NC1)C(=O)N(C)C | C8H9BrN2O
reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] | 0.0275 mol, 6.98 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | dichloromethane | 0.0007 mol, 0.6 g | ClCCl | CH2Cl2
reactant | potassium acetate | 0.0750 mol, 7.36 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.8 mmol, 0.4 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | N,N-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-2-carboxamide | 4.7 g, 68% | CN(C(=O)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C14H21BN2O3
